US08003677B2
N-(cyclopropylmethyl)-2-[5-(2-trifluoromethylbenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl]thiazole-5-carboxamide
N-(cyclopropyl)-2-(3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl)thiazole-5-carboxamide, trifluoroacetate (106 mg, 0.26 mmol) was reacted with 2-trifluoromethylbenzoyl chloride analogously to example 3f. M+H+: 463.05.

reactant | N-(cyclopropyl)-2-(3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl)thiazole-5-carboxamide | C1(CC1)NC(=O)C1=CN=C(S1)N1CC=2CNCC2C1 | C13H16N4OS
reactant | trifluoroacetate | 0.26 mmol, 106 mg | FC(C(=O)[O-])(F)F
reactant | 2-trifluoromethylbenzoyl chloride | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
product | N-(cyclopropylmethyl)-2-[5-(2-trifluoromethylbenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl]thiazole-5-carboxamide | C1(CC1)CNC(=O)C1=CN=C(S1)N1CC=2CN(CC2C1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C22H21F3N4O2S
